US07439260B2
Step 3a: (+)-7-{[5-(1-cyclopropyl-2,2,2-trifluoro-1-hydroxyethyl)-1,3-thiazol-2-yl]thio}-4-(4-fluorophenyl)-2H-chromen-2-one
Employing the procedure described in Example 1, Step 3, with 7-bromo-4-(4-fluorophenyl)-2H-chromen-2-one, (+)-1-cyclopropyl-2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanol and potassium carbonate in NMP at 120° C., the title compound was obtained. 1H NMR (400 MHz, acetone-d6): δ 8.00 (s, 1H), 7.68 (m, 2H), 7.56-7.60 (m, 2H), 7.48 (dd, 1H), 7.39 (t, 2H), 6.43 (s, 1H), 5.88 (s, 1H), 1.65 (m, 1H), 0.82 (m, 1H), 0.54-0.71 (m, 3H); [α]D=+29.4° (c=1, EtOH).

reactant | 7-bromo-4-(4-fluorophenyl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C15H8BrFO2
reactant | (+)-1-cyclopropyl-2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanol | C1(CC1)C(C(F)(F)F)(O)C1=CN=C(S1)S | C8H8F3NOS2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | (+)-7-{[5-(1-cyclopropyl-2,2,2-trifluoro-1-hydroxyethyl)-1,3-thiazol-2-yl]thio}-4-(4-fluorophenyl)-2H-chromen-2-one | C1(CC1)C(C(F)(F)F)(O)C1=CN=C(S1)SC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C23H15F4NO3S2
